US04392973
Di-n-butyl 2,6-di-t-butyl-4-methylphenyl borate was prepared by reacting boric acid with n-butanol to give tri-n-butyl borate which was isolated by distillation. 2,6-di-t-butyl-4-methylphenol (1 mole) was added to the tri-n-butyl borate (1 mole). The reaction mixture was heated and n-butanol collected as distillate. The di-n-butyl 2,6-di-t-butyl-4-methylphenyl borate was isolated by distillation and its purity was confirmed by infra-red spectrascopy and chemical analysis.

reactant | 2,6-di-t-butyl-4-methylphenol | 1 mole | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | tri-n-butyl borate | 1 mole | B(OCCCC)(OCCCC)OCCCC | C12H27BO3
product | di-n-butyl 2,6-di-t-butyl-4-methylphenyl borate | B(OCCCC)(OCCCC)OC1=C(C=C(C=C1C(C)(C)C)C)C(C)(C)C | C23H41BO3
